US07495103B2
To a suspension of LiAlH4 (7.8 g, 0.21 mol) in THF (300 mL) was added dropwise a mixture of 4-nitro-1H-indole-2-carboxylic acid ethyl ester and 6-nitro-1H-indole-2-carboxylic acid ethyl ester (B-4-b) (6 g, 25.7 mmol) in THF (50 mL) at 0° C. under N2. The mixture was heated at reflux overnight and then cooled to 0° C. H2O (7.8 mL) and 10% NaOH (7.8 mL) were added to the mixture at 0° C. The insoluble solid was removed via filtration. The filtrate was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude residue was purified by column chromatography to afford 2-methyl-1H-indol-6-ylamine (B-4) (0.3 g, 8%). 1H NMR (CDCl3) δ 7.57 (br s, 1H), 7.27 (d, J=8.8 Hz, 1H), 6.62 (s, 1H), 6.51-6.53 (m, 1H), 6.07 (s, 3H), 3.59-3.25 (br s, 2H), 2.37 (s, 3H); ESI-MS 147.2 m/z (MH+).

reactant | LiAlH4 | 0.21 mol, 7.8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-nitro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)[N+](=O)[O-] | C11H10N2O4
reactant | 6-nitro-1H-indole-2-carboxylic acid ethyl ester | 25.7 mmol, 6 g | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)[N+](=O)[O-] | C11H10N2O4
reactant | NaOH | 7.8 mL | [OH-].[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 7.8 mL | O | H2O
product | 2-methyl-1H-indol-6-ylamine | 0.3 g, 8% | CC=1NC2=CC(=CC=C2C1)N | C9H10N2
